US06048868
Sodium hydroxide (3 g), tetrabutylammonium hydrogen sulphate (1.87 g) and ethyl chloroformate (2.2 mL) are successively added to a solution of 1-(6-methoxy- 1-methyl-2,3,4,9-tetrahydro-1H-β-carbolin-2-yl)-1-ethanone (1.45 g) in dichloromethane (100 mL). The mixture is stirred at room temperature for 3 h. After separation on silica gel (chloroform/methanol eluent), the ethyl 2-acetyl-6-methoxy-1 -methyl-2,3,4,9-tetrahydro-1H-β-carboline-9-carboxylate is obtained (70% yield).

reactant | Sodium hydroxide | 3 g | [OH-].[Na+]
reactant | ethyl chloroformate | 2.2 mL | ClC(=O)OCC | C3H5ClO2
reactant | 1-(6-methoxy- 1-methyl-2,3,4,9-tetrahydro-1H-β-carbolin-2-yl)-1-ethanone | 1.45 g | COC=1C=C2C=3CCN(C(C3NC2=CC1)C)C(C)=O | C15H18N2O2
catalyst | tetrabutylammonium hydrogen sulphate | 1.87 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | ethyl 2-acetyl-6-methoxy-1 -methyl-2,3,4,9-tetrahydro-1H-β-carboline-9-carboxylate | 70% yield | C(C)(=O)N1C(C=2N(C3=CC=C(C=C3C2CC1)OC)C(=O)OCC)C | C18H22N2O4
